US04241071
A solution of 1.4 g of 4-[α-(2-fluoro-4-methylphenyl)-2-tolyl]-1-phenethyl-4-piperidinol, Example 11, in 30 ml of tetrahydrofuran is cooled to -60° C. To this cooled solution is added 1.5 ml of n-butyllithium and the resulting solution stirred for 15 minutes. To this solution is added dropwise 0.3 ml of propionyl chloride at this low temperature and after total addition the solution is permitted to reach ambient temperature. The solution is stirred at ambient temperature for 24 hours. The solution is diluted with water and extracted with chloroform. The chloroform extract is dried and filtered and the chloroform evaporated off leaving a white powder. The powder is recrystallized from a methanol-acetone-ether mixture to give the product, mp 195°-197° C. of 4-[α-(2-fluoro-4-methylphenyl)-2-tolyl]-4-propionyloxy-1-phenethylpiperidine hydrochloride.

reactant | 4-[α-(2-fluoro-4-methylphenyl)-2-tolyl]-1-phenethyl-4-piperidinol | 1.4 g | FC1=C(C=CC(=C1)C)CC1=C(C=CC=C1)C1(CCN(CC1)CCC1=CC=CC=C1)O | C27H30FNO
reactant | n-butyllithium | 1.5 ml | C(CCC)[Li]
reactant | propionyl chloride | 0.3 ml | C(CC)(=O)Cl | C3H5ClO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-[α-(2-fluoro-4-methylphenyl)-2-tolyl]-4-propionyloxy-1-phenethylpiperidine hydrochloride | Cl.FC1=C(C=CC(=C1)C)CC1=C(C=CC=C1)C1(CCN(CC1)CCC1=CC=CC=C1)OC(CC)=O | InChI=1S/C30H34FNO2.ClH/c1-3-29(33)34-30(16-19-32(20-17-30)18-15-24-9-5-4-6-10-24)27-12-8-7-11-25(27)22-26-14-13-23(2)21-28(26)31;/h4-14,21H,3,15-20,22H2,1-2H3;1H
